US07981918B2
7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine
Combine 7-chloro-imidazo[1,2-a]pyridine (500.4 g, 3.28 mol), bis(pinacolato)diboron (999 g; 3.93 mol), tricyclohexylphosphine (92 g; 328.06 mmoles), and potassium acetate (483 g; 4.92 mol), in diglyme (4 L) and water (4.83 mL) and stir for 5 min. Add palladium (II) acetate (36.81 g; 163.96 mmoles) and more diglyme (1 L) and heat to 100° C. for 17 hours. Cool the reaction and add potassium carbonate (340 g; 2.46 moles) and stir 18 hr. Filter reaction slurry and wash solids with diglyme (2×1 L). Slurry the solids in water (5 L) and then filter and wash with water (2×1 L) and heptane (1 L). Dry the solid in a vacuum oven at 60° C. to afford 695.1 g (90%) of the titled product. MS (m/z): 245 (M+1).

reactant | 7-chloro-imidazo[1,2-a]pyridine | 3.28 mol, 500.4 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | bis(pinacolato)diboron | 3.93 mol, 999 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 328.06 mmoles, 92 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 4.92 mol, 483 g | C(C)(=O)[O-].[K+]
reactant | potassium carbonate | 2.46 moles, 340 g | C([O-])([O-])=O.[K+].[K+]
solvent | diglyme | 4 L | COCCOCCOC | C6H14O3
catalyst | palladium (II) acetate | 163.96 mmoles, 36.81 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | diglyme | 1 L | COCCOCCOC | C6H14O3
solvent | water | 4.83 mL | O | H2O
product | 7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine | 695.1 g, 90% | CC1(OB(OC1(C)C)C1=CC=2N(C=C1)C=CN2)C | C13H17BN2O2
